US03964896
Step 3. Methyl 2-(5-2H-tetrazolyl)benzoate
Methyl 2-cyanobenzoate (54 g, 0.33 mole) in D.M.F. (165 ml) was treated with sodium azide (23.4 g, 0.36 mole) and ammonium chloride (19.3 g, 0.36 mole). After the reaction mixture had been stirred on the steam bath for 20 hrs., the D.M.F. was removed under reduced pressure and the residue dissolved in water (200 ml). The solution was filtered, cooled in ice and acidified to give a white precipitate which was filtered, washed with water and dried. This gave methyl 2-(5-2H-tetrazolyl)benzoate, M.P. 132°-5°, 19 g (28%). (Found: C, 53.79, 52.59, 52.33; H, 4.25, 4.17, 4.07; N, 26.79, 26.84, 27.25. C9H8N4O2 requires C, 52.94; H, 3.95; N, 27.44.)

reactant | Methyl 2-cyanobenzoate | 0.33 mole, 54 g | C(#N)C1=C(C(=O)OC)C=CC=C1 | C9H7NO2
reactant | sodium azide | 0.36 mole, 23.4 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.36 mole, 19.3 g | [Cl-].[NH4+]
product | Methyl 2-(5-2H-tetrazolyl)benzoate | N=1NN=NC1C1=C(C(=O)OC)C=CC=C1 | C9H8N4O2
